US05232929
To a stirred solution of 2-oxo-5-hydroxy-6-benzhydryl piperidine (18.15 gm, 64.5 mmole) in acetone (150 ml) at -5° C. was added Jones reagent (2.67M, 94 mmole), and the reaction mixture was further stirred for 4 hrs. At the end of this period, the excess reactant was decomposed with 2-propanol and the solution concentrated under vacuum to half of its volume. The contents of the flask were then diluted with water (1000 ml) and extracted with methylene chloride (3×1000 ml). The combined organic phases were dried (anhyd. magnesium sulfate) and the methylene chloride was removed under vacuum to afford 2,5-dioxo-6-benzhydrylpiperidine (15.35 gm, 85%).

reactant | 2-oxo-5-hydroxy-6-benzhydryl piperidine | 64.5 mmole, 18.15 gm | O=C1NC(C(CC1)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H19NO2
reactant | Jones reagent | 94 mmole, 2.67M | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-propanol | CC(C)O | C3H8O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 2,5-dioxo-6-benzhydrylpiperidine | 15.35 gm, 85% | O=C1NC(C(CC1)=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H17NO2
